US08383652B2
197 mg (4.9 mmol) of sodium hydride are added to a mixture of 1.2 mL (4.9 mmol) of triethyl 2-phosphonobutyrate and 415 mg of 3′-methylaminobiphenyl-4-carbaldehyde (2.0 mmol) in 10 mL of tetrahydrofuran. The reaction mixture is stirred at room temperature overnight, poured into saturated aqueous ammonium chloride solution and extracted with ethyl acetate. The organic phases are combined, washed with water and dried over sodium sulfate. The solvent is evaporated off and the residue (1.1 g) is purified by chromatography on a column of silica eluted with a 90/10 heptane/ethyl acetate mixture. 438 mg (72%) of ethyl 2-[1-(3′-methylaminobiphenyl-4-yl)meth-(E)-ylidene]butyrate are obtained in the form of off-white crystals.

reactant | sodium hydride | 4.9 mmol, 197 mg | [H-].[Na+]
reactant | triethyl 2-phosphonobutyrate | 4.9 mmol, 1.2 mL | CCC(C(=O)OCC)P(=O)(OCC)OCC | C10H21O5P
reactant | 3′-methylaminobiphenyl-4-carbaldehyde | 2.0 mmol, 415 mg | CNC=1C=C(C=CC1)C1=CC=C(C=C1)C=O | C14H13NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | ethyl 2-[1-(3′-methylaminobiphenyl-4-yl)meth-(E)-ylidene]butyrate | 438 mg, 72% | CNC=1C=C(C=CC1)C1=CC=C(C=C1)\C=C(\C(=O)OCC)/CC | C20H23NO2
